US04544450
Nuclear acetoxylation of mesitylene
In the comparative example performed without any catalyzer being present, the current yield is 35% and the stoichiometric yield is 61% and the mixture of isomeric acetates contains 93% of 2,4,6-trimethylphenylacetate and 7% of 3,5-dimethylbenzylacetate.

reactant | 2,4,6-trimethylphenylacetate | CC1=C(C(=CC(=C1)C)C)CC(=O)[O-]
reactant | 3,5-dimethylbenzylacetate | CC=1C=C(CCC(=O)[O-])C=C(C1)C
product | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
